US07737166B2
7-Fluoro-5-methyl-6-phenyl-2-(piperidin-1-yl)-1,3-benzoxazole-4-carbonitrile (I-136)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.20 g, 0.70 mmol) was dissolved in dichloromethane (10 ml), and diisopropylethylamine (0.15 ml, 0.88 mmol) and piperidine (83.0 μl, 0.84 mmol) were added. This was heated under reflux for 3 hours, and diluted with dichloromethane. After washing with water and drying over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane) to obtain a colorless solid (0.21 g, 90%).

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.70 mmol, 0.20 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 0.88 mmol, 0.15 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperidine | 0.84 mmol, 83.0 μl | N1CCCCC1 | C5H11N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-Fluoro-5-methyl-6-phenyl-2-(piperidin-1-yl)-1,3-benzoxazole-4-carbonitrile | 0.21 g, 90% | FC=1C(=C(C(=C2N=C(OC21)N2CCCCC2)C#N)C)C2=CC=CC=C2 | C20H18FN3O
